US04168153
(a) Preparation of N-isopropyl-4-nitro-2-(trifluoromethyl)benzenamine
To a solution of 45 g of 3-(trifluoromethyl)-4-chloronitrobenzene in 150 ml of DMSO was added 13 g of isopropylamine. The mixture was heated at 80°-90° C. for two hours, poured over ice water, acidified and filtered. The filter cake was dried to yield 49.6 g of product; m.p. 35°-36° C.

reactant | 3-(trifluoromethyl)-4-chloronitrobenzene | 45 g | FC(C=1C=C(C=CC1Cl)[N+](=O)[O-])(F)F | C7H3ClF3NO2
reactant | isopropylamine | 13 g | C(C)(C)N | C3H9N
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | N-isopropyl-4-nitro-2-(trifluoromethyl)benzenamine | 49.6 g | C(C)(C)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C10H11F3N2O2
